US05965752
Isolation of A Major Taxane, 9-dihydro-13-acetylbaccatin III: The solid is transferred to a 200 mL erlenmeyer flask and dissolved in 100 mL of methanol. After one hour, crystals of 9-dihydro-13-acetlybaccatin III are observed and the mixture is left at -20° C. for 18 hours to favor crystallization. The solid is filtered in the usual manner and washed with 2×10 mL, of cold methanol. The filtrate and the washings are kept aside for the next step (Filtrate A). The solid is often contaminated with black particles of charcoal which probably passes through the scintered glass during the charcoal filtration. To eliminate these particles, dichloromethane (20 mL) is added to the solid which dissolves rapidly and the insoluble black particles are filtered. The filtrate is evaporated on a rotovap, dichloromethane (2.0 mL) is added to dissolve the residue followed by methanol (80 mL) to induce crystallization. The mixture is left at -20° C. for 18 hours and filtered. The filtrate and washings are combined with Filtrate A. The solid is washed with cold methanol (5×1 mL) and dried under vacuum for 2 hours affording 1.2 g of 9-dihydro-13-acetyl baccatin III as a white product.

reactant | Taxane | C[C@@H]1CCC[C@@]2([C@@H]1C[C@@H]3CC[C@H]([C@@H](C3(C)C)CC2)C)C | C20H36
reactant | 9-dihydro-13-acetylbaccatin III | CC1=C2[C@H]([C@@H]([C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O)C)O)OC(=O)C | C33H42O12
solvent | methanol | 100 mL | CO | CH4O
product | 9-dihydro-13-acetyl baccatin III | 1.2 g | CC1=C2[C@H]([C@@H]([C@@]3([C@H](C[C@@H]4[C@]([C@H]3C[C@](C2(C)C)(C[C@@H]1OC(=O)C)O)(CO4)OC(=O)C)O)C)O)OC(=O)C | C26H38O10
